US08314088B2
3-(2-methylpiperidin-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride
To a solution of 8-benzyl-3-(2-methylpiperidin-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (0.65 g) in methanol (20 mL) was added 20% Pd(OH)2/C (0.13 g), and the mixture was stirred under a hydrogen atmosphere at 50° C. for 2.5 hr. The reaction mixture was filtered, and the filtrate was concentrated. To a solution of the obtained crude product in ethyl acetate (20 mL) was added a 4 N hydrogen chloride-ethyl acetate solution (628 μL) and the mixture was stirred for 30 min. The reaction mixture was filtered, and the obtained crystals were purified by recrystallization (methanol-ethyl acetate) to give the title compound (0.40 g, 73%) as a pale-yellow powder.

reactant | 8-benzyl-3-(2-methylpiperidin-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 0.65 g | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N2C(CCCC2)C | C20H26N4O
reactant | hydrogen chloride-ethyl acetate | 4 N, 628 μL | C(C)(=O)OCC.Cl
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd(OH)2/C | 0.13 g | [OH-].[OH-].[Pd+2]
product | 3-(2-methylpiperidin-1-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine hydrochloride | 0.40 g, 73% | Cl.CC1N(CCCC1)C1=NC2=C(CNCCO2)N=C1 | InChI=1S/C13H20N4O.ClH/c1-10-4-2-3-6-17(10)12-9-15-11-8-14-5-7-18-13(11)16-12;/h9-10,14H,2-8H2,1H3;1H
